US05232898
Analogously to the procedure described in Example 1, starting from ethyl 3-amino-4,4,4-trifluorocrotonate and 3,4-dihydro-7-fluoro-6-isocyanato-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine there is obtained 6-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}-3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine (not isolated) and, after cyclization of this benzoxazine, there is obtained 3-[3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazin-6-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, 1H-NMR (CDCl3, 60 MHz): 7.29 ppm (d, 1H), 6.99 ppm (d, 1H), 6.31 ppm (s, 1H), 4.85-4.61 ppm (m, 4H), 2.35 ppm (t, 1H): mass spectrum: m/e 383(20), M+.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 3,4-dihydro-7-fluoro-6-isocyanato-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N=C=O | C12H7FN2O3
product | 6-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}-3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | C(C)OC(=O)C=C(C(F)(F)F)NC(NC=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F)=O | C18H15F4N3O5
